US07655683B2
N-(4-Cyano-3-trifluoromethyl-phenyl)-3-methyl-5-trifluoromethyl-3,4-dihydro-2H-pyrazole-3-carboximidothioic acid ethyl ester
3-Methyl-5-trifluoromethyl-3,4-dihydro-2H-pyrazole-3-carbothioic acid (4-cyano-3-trifluoromethyl-phenyl)-amide (10 mmoL), K2CO3 (15 mmoL) in acetone was treated with Etl (10 mmoL) at room temperature. The reaction was slightly heated and stirred at 50° C. for 1 hr. The solid was filtrated and the filtrate was concentrated to give the crude product as a brown oil, which was then purified by silica gel column chromatography using hexanes and ethyl acetate as eluent to afford the title compound as a colorless oil.

reactant | 3-Methyl-5-trifluoromethyl-3,4-dihydro-2H-pyrazole-3-carbothioic acid (4-cyano-3-trifluoromethyl-phenyl)-amide | C(#N)C1=C(C=C(C=C1)NC(=S)C1(NN=C(C1)C(F)(F)F)C)C(F)(F)F | C14H10F6N4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | N-(4-Cyano-3-trifluoromethyl-phenyl)-3-methyl-5-trifluoromethyl-3,4-dihydro-2H-pyrazole-3-carboximidothioic acid ethyl ester | C(C)SC(=NC1=CC(=C(C=C1)C#N)C(F)(F)F)C1(NN=C(C1)C(F)(F)F)C | C16H14F6N4S
